US08309720B2
To a 25 mL round bottom flask were added 3-(1-methyl-piperidin-4-yl)-propan-1-ol (0.23 g, 0.0014 mol), 1,3-di-Boc-2-methylisothiourea (0.42 g, 0.0014 mol), PPh3 (0.42 g, 0.0016 mol) and THF (anhydrous, 8.0 mL). The resultant, stirred stirring solution was cooled to 2.0° C. To the resultant solution was then added DEAD (0.27 mL, 0.0016 mol) drop wise. The reaction was aged cold for 30 min, warmed to room temperature and aged for 14 h. The THF was removed via rotovap and the residue taken up in MTBE (10 mL). The resultant solution was extracted with saturated aqueous NaHCO3 (2×10 mL) and diluted with hexanes (20 mL). After 10 min, the resultant slurry was filtered and the filtrate concentrated via rotovap. The residue was taken up in hexanes (25 mL) and filtered after 10 min. The filtrate was concentrated to yield N-[3-(1-methylpiperidin-4-yl)-propyl]-N,N′-di-Boc-methylisothiourea.

reactant | 3-(1-methyl-piperidin-4-yl)-propan-1-ol | 0.0014 mol, 0.23 g | CN1CCC(CC1)CCCO | C9H19NO
reactant | 1,3-di-Boc-2-methylisothiourea | 0.0014 mol, 0.42 g | C(=O)(OC(C)(C)C)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
reactant | PPh3 | 0.0016 mol, 0.42 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.0016 mol, 0.27 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | N-[3-(1-methylpiperidin-4-yl)-propyl]-N,N′-di-Boc-methylisothiourea | CN1CCC(CC1)CCCN(C(SC)=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H39N3O4S
